US03932399
Preparation of 3a,4-dihydro-8-chloro-6-phenylthiazolo [3,2-a] -1,4- benzodiazepin-1(2H)-one.
A solution of 7-chloro-2,3,4,5-tetrahydro-5-phenyl-2,5-epithio-1H-1,4-benzodiazepine (500 mg) in THF was treated slowly with excess mercaptoacetic acid (0.5 ml) and stirred and heated under reflux for 16 hours. The cooled solution was washed with aqueous sodium carbonate, dried, evaporated, and the oily residue taken up in ether. The desired product was re-crystallized from methylene chloride/methanol and was obtained as pale yellow crystals, m.p. 228°-230°.

reactant | 7-chloro-2,3,4,5-tetrahydro-5-phenyl-2,5-epithio-1H-1,4-benzodiazepine | 500 mg | ClC=1C=CC2=C(C3(NCC(N2)S3)C3=CC=CC=C3)C1 | C15H13ClN2S
reactant | mercaptoacetic acid | 0.5 ml | SCC(=O)O | C2H4O2S
solvent | THF | C1CCOC1 | C4H8O
product | 3a,4-dihydro-8-chloro-6-phenylthiazolo [3,2-a] -1,4- benzodiazepin-1(2H)-one | ClC=1C=CC2=C(C(=NCC3N2C(CS3)=O)C3=CC=CC=C3)C1 | C17H13ClN2OS
